US05516788
v) 9b,10-dihydro-6,7,9,9b-tetramethyl-8-methoxyindeno[1,2-b]indole
A mixture of 2.2 g (0.012 mol) of 4-hydrazino-2,3,6trimethylanisole, 1.9 g (0.013 mol) of 2-methyl-1-indanone and 2 ml of conc. aqueous HCl in 20 ml of ethanol was refluxed under argon for 1 hour. After cooling the solvent was removed by evaporation and the residue was partitioned in a mixture of water and methylene chloride. The aqueous phase was neutralized by addition of aqueous NaHCO3 and the phases separated. After drying (MgSO4) and evaporation of the organic phase, the remaining crude product was purified by chromatography on silica using methylene chloride as an eluant. This gave 1.1 g 31% of the product which was used directly in the next step.

reactant | 4-hydrazino-2,3,6trimethylanisole | 0.012 mol, 2.2 g | N(N)C1=C(C(=C(C(=C1)C)OC)C)C | C10H16N2O
reactant | 2-methyl-1-indanone | 0.013 mol, 1.9 g | CC1C(C2=CC=CC=C2C1)=O | C10H10O
reactant | HCl | 2 ml | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 9b,10-dihydro-6,7,9,9b-tetramethyl-8-methoxyindeno[1,2-b]indole | CC1=C(C(=C(C=2C3(C(=NC12)C1=CC=CC=C1C3)C)C)OC)C | C20H21NO
